US08293768B2
Synthesis of 2-(3-(cyclopentylmethyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
Following the procedure as describe in Example 9, making variations as required to replace 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 2-(3-(cyclopentylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid to react with 3-(aminomethyl)pyridine, the title compound was obtained as a white powder in 61% yield: mp 142-143° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) 8.54-8.43 (m, 2H), 7.63 (d, J=7.2 Hz, 1H), 7.27-7.18 (m, 1H), 6.45 (br s, 1H), 4.53 (d, J=5.7 Hz, 2H), 4.09-4.00 (m, 2H), 3.58-3.52 (m, 2H), 3.17 (d, J=7.2 Hz, 2H), 2.54 (s, 3H), 2.16-1.98 (m, 1H), 1.68-1.49 (m, 6H), 1.19-1.17 (m, 2H); 13C NMR (75 MHz, CDCl3) δ 162.7, 157.5, 155.5, 153.6, 149.2, 148.8, 135.5, 134.0, 123.5, 116.6, 48.9, 42.6, 42.0, 41.3, 37.9, 30.3, 25.6, 17.2; MS (ES+) m/z 400.3 (M+1).

reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
reactant | 2-(3-(cyclopentylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C1(CCCC1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C14H19N3O3S
reactant | 3-(aminomethyl)pyridine | NCC=1C=NC=CC1 | C6H8N2
product | 2-(3-(cyclopentylmethyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 61% yield | C1(CCCC1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC=1C=NC=CC1)=O | C20H25N5O2S
